US04876084
43.6 g (194 mmol) of p-acetoxycinnamoyl chloride was added to 200 ml of methylene chloride and heated at 40° C. to make a homogeneous solution. The solution was cooled down to 15°-20° C., into which 35.5 g (582 mmol) of monoethanolamine was dropped. Since the system generated heat during the dropping, it was cooled and the dropping rate was so controlled that the liquid temperature was maintained at 15°-20° C. After completion of the dropping, the system was stirred at room temperature for 1 hour, and was then heated under reflux and stirred for further 1 hour to complete the reaction. After distillation of the methylene chloride under reduced pressure, 50 ml of ethanol was added so as to obtain a substantially homogeneous solution. Thereafter, 30.1 g (388 mmol) of a 40% methylamine aqueous solution was added to the system at one time, followed by heating to 40°-50° C. and stirring for 1 hour. The reaction solution was poured into 800 ml of water, to which a 12% hydrochloric acid aqueous solution was added to a pH of about 3. The resultant crystals were filtered off and recrystallized from acetone to obtain 24.9 g of p-hydroxy-N-(2-hydroxyethyl)cinnamamide as colorless or slightly yellow crystals.

reactant | p-acetoxycinnamoyl chloride | 194 mmol, 43.6 g | C(C)(=O)OC1=CC=C(C=CC(=O)Cl)C=C1 | C11H9ClO3
reactant | monoethanolamine | 582 mmol, 35.5 g | C(O)CN | C2H7NO
reactant | methylamine | CN | CH5N
reactant | hydrochloric acid | Cl | ClH
solvent | water | 800 ml | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | p-hydroxy-N-(2-hydroxyethyl)cinnamamide | 24.9 g, Yield: 62% | OC1=CC=C(C=CC(=O)NCCO)C=C1 | C11H13NO3
